US06057467
Being cooled in an ice-water bath, a solution of 50.5 ml of butyl lithium(0.126 mol) in 2.5M hexane were slowly dripped to a solution of 15.4 g(0.126 mol) of butyl-cyclopentadiene(manufactured by RIPP) in 100 ml THF with stirring. After the dripping was finished, the resultant mixture was continuously stirred for 1 hour, a white muddy solution of butyl-cyclopentadienyl lithium was obtained.

reactant | butyl lithium | 0.126 mol, 50.5 ml | C(CCC)[Li]
reactant | butyl-cyclopentadiene | 0.126 mol, 15.4 g | C(CCC)C1=CC=CC1 | C9H14
solvent | hexane | 2.5M | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | butyl-cyclopentadienyl lithium | C(CCC)C1(C=CC=C1)[Li] | InChI=1S/C9H13.Li/c1-2-3-6-9-7-4-5-8-9;/h4-5,7-8H,2-3,6H2,1H3;
